US07091353B2
N-{[2-(2,6-Dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]methyl}propanamide I-14
1,8-Diazabicyclo[5,4,0]undec-7-ene (0.65 g, 4.25 mmol) was added to a stirred suspension of 4-(aminomethyl)-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione hydrochloride (0.6 g, 1.85 mmol) in CH3CN (50 ml). After stirring for 20 min, propionyl chloride (0.2 g, 2.13 mmol) was added. The mixture was stirred at room temperature for 17 hours. Solvent was removed in vacuo and the residue was dissolved in CH2Cl2 (60 ml) and washed with 1N HCl (30 ml), H2O (30 ml), brine (30 ml) and dried (MgSO4). The solvent was removed and the resulting solid was slurried in hot C2H5OH (10 ml) to give after filtration N-{[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]methyl}propanamide (0.41 g, 64%) as a white solid: mp 219–221° C.; 1H NMR (DMSO-d6) δd 11.15 (s, 1H), 8.42 (t, J=5.8 Hz, 1H), 7.87–7.67 (m, 3H), 5.19–5.12 (dd, J=5.3 and 12.5 Hz, 1H), 4.72 (d, J=5.8 Hz, 2H), 2.98–2.84 (m, 1H), 2.65–2.48 (m, 2H), 2.26–2.17 (m, 2H), 2.09–2.04 (m, 1H), 1.05 (t, J=7.8 Hz, 3H); 13C NMR (DMSO-d6) δ d 173.52, 172.81, 169.79, 167.53, 167.01, 139.52, 134.79, 133.20, 131.55, 127.10, 121.86, 48.89, 37.69, 30.95, 28.43, 22.03, 9.90; Anal. Calcd. For C17H17N3O5+0.19 H2O: C, 58.88; H, 5.05; N, 12.12. Found: C, 58.77; H, 4.97; N, 12.12.

reactant | 1,8-Diazabicyclo[5,4,0]undec-7-ene | 4.25 mmol, 0.65 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 4-(aminomethyl)-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione hydrochloride | 1.85 mmol, 0.6 g | Cl.NCC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O
reactant | propionyl chloride | 2.13 mmol, 0.2 g | C(CC)(=O)Cl | C3H5ClO
solvent | CH3CN | 50 ml | CC#N | C2H3N
product | N-{[2-(2,6-Dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]methyl}propanamide | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)CNC(CC)=O)=O)=O | C17H17N3O5
